US05057607
(2R,3S)-3-Phenoxyacetylamino-2-[(2-furanyl)ethyl]-4-oxo-1-azetidine acetic acid, methyl ester
A 100 mg sample of [(2R,3S),(2S,3R)]-3-amino- <2-[2-(2-furanyl)ethyl]-4-oxo-1-azetidine acetic acid, methyl ester oxalate salt and a 135 mg sample of methyl phenoxyacetate were added to 0.lM phosphate buffer (100 ml final volume) and adjusted to pH=6.0 with lN KOH. Milli-Q™ H2O washed Sclavo penicillin G amidase (40 I.U. of enzyme per gram of substrate) was then added to the reaction mixture and the pH of reaction mixture was maintained at 6.0 and temperature at 28° C. for 8 hours. The reaction mixture was then filtered to remove the immobilized enzyme and extracted two times with ethyl acetate. The organic extracts were then dried over anhydrous sodium sulfate and concentrated to dryness in vacuo. The title compound was then isolated by column chromatography from this residue using a Kiesegel 60™ column eluted with toluene/ethyl acetate (70/30). Yield: 13%.

reactant | 2-[2-(2-furanyl)ethyl]-4-oxo-1-azetidine acetic acid, methyl ester oxalate salt | C(C(=O)O)(=O)O.O1C(=CC=C1)CCC1N(C(C1)=O)CC(=O)OC
reactant | methyl phenoxyacetate | O(C1=CC=CC=C1)CC(=O)OC | C9H10O3
reactant | phosphate | P(=O)([O-])([O-])[O-]
reactant | KOH | [OH-].[K+]
reactant | penicillin G | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC=3C=CC=CC3)C(=O)O)C | C16H18N2O4S
solvent | H2O | O | H2O
product | (2R,3S)-3-Phenoxyacetylamino-2-[(2-furanyl)ethyl]-4-oxo-1-azetidine acetic acid, methyl ester | Yield: 13% | O(C1=CC=CC=C1)CC(=O)N[C@H]1[C@H](N(C1=O)CC(=O)OC)CCC=1OC=CC1 | C20H22N2O6
